US07727713B2
1-(4-Hydroxy-phenyl)-pyrrole-2,5-dione (1 mmol), NHS (1.0 mmol) and 3-(4,5-dimethoxy-2-nitro-benzyloxycarbonylamino)-butyric acid (1 mmol) is dissolved in THF (3 mL). The solution is cooled to 0° C. and treated dropwise with DIC (1.2 mmol). The cooling bath is removed after 1 hour and the reaction mixture is left at room temperature o/n. The solvent is evaporated in vacuo and the pure product (3-(4,5-dimethoxy-2-nitro benzyloxycarbonyl-amino)-butyric acid 4-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-phenyl ester) is isolated by silica column purification using EtOAc-heptane (1:4 then 1:2 then 1:1) as eluent.

reactant | 1-(4-Hydroxy-phenyl)-pyrrole-2,5-dione | 1 mmol | OC1=CC=C(C=C1)N1C(C=CC1=O)=O | C10H7NO3
reactant | 3-(4,5-dimethoxy-2-nitro-benzyloxycarbonylamino)-butyric acid | 1 mmol | COC1=CC(=C(COC(=O)NC(CC(=O)O)C)C=C1OC)[N+](=O)[O-] | C14H18N2O8
reactant | DIC | 1.2 mmol | CC(N=C=NC(C)C)C | C7H14N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(4,5-dimethoxy-2-nitro benzyloxycarbonyl-amino)-butyric acid 4-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-phenyl ester | O=C1N(C(C=C1)=O)C1=CC=C(C=C1)OC(CC(C)NC(=O)OCC1=C(C=C(C(=C1)OC)OC)[N+](=O)[O-])=O | C24H23N3O10
